US04298739
3.8 Grams of 6-[3-(p-nitrophenoxycarbonyl)-2-methylpropoxy]carbostyril is dissolved in 40 ml of dimethylformamide, followed by addition of 1.6 ml of N-methyl-2-methylcyclohexylamine and 12-hour agitation at 60°-70° C. After the reaction, the solvent is distilled off and the obtained residue is refined by silica gel column chromatography (silica gel: Wakogel C-200; eluent: 20/1 (V/V) chloroform/methanol) and the crude crystals are recrystallized from benzene-ligroin to obtain 1.6 g of 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril in the form of colorless needlelike crystals with melting point of 146°-149° C.

reactant | 6-[3-(p-nitrophenoxycarbonyl)-2-methylpropoxy]carbostyril | [N+](=O)([O-])C1=CC=C(OC(=O)CC(COC=2C=C3C=CC(NC3=CC2)=O)C)C=C1 | C20H18N2O6
reactant | N-methyl-2-methylcyclohexylamine | 1.6 ml | CNC1C(CCCC1)C | C8H17N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril | 1.6 g | CN(C(=O)CC(COC=1C=C2C=CC(NC2=CC1)=O)C)C1C(CCCC1)C | C22H30N2O3
